US07273868B2
A mixture of 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidine-1-yl)-2-chloropyrimidine (prepared in the above (4)) 120 mg, 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine 70 mg, triethylamine 57 mg and N,N-dimethylacetamide 3 ml is stirred at 10° C. for 3 hours. The reaction mixture is diluted with an aqueous citric acid solution and extracted with ethyl acetate. The water layer is made basic with an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine as a colorless foam, 105 mg.

reactant | 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidine-1-yl)-2-chloropyrimidine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1C(=O)OC)N1CCC(CC1)O)Cl | C18H20ClN3O3S
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | 70 mg | N=1C=CN2C1CNCC2 | C6H9N3
reactant | triethylamine | 57 mg | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-benzylthio-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1C(=O)OC)N1CCC(CC1)O)N1CC=2N(CC1)C=CN2 | C24H28N6O3S
